US06191138B1
D1. 2-(3.4-diethoxyphenyl)cyclohexanone
10.2 g of 2-(3,4-diethoxyphenyl)cyclohex-4-enone in 600 ml of tetrahydrofuran are admixed with 1.5 ml of conc. hydrochloric acid and 400 mg of 10% palladium on carbon and hydrogenated. The catalyst is filtered off, the solution is concentrated under reduced pressure and the residue is chromatographed over silica gel using a mixture of petroleum ether/ethyl acetate in a ratio of 2/1. Concentration of the appropriate eluate fractions gives 8.25 g (80.9% of Th.) of the title compound as an oil which solidifies.

reactant | 2-(3,4-diethoxyphenyl)cyclohex-4-enone | 10.2 g | C(C)OC=1C=C(C=CC1OCC)C1C(CC=CC1)=O | C16H20O3
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
product | 2-(3.4-diethoxyphenyl)cyclohexanone | C(C)OC=1C=C(C=CC1OCC)C1C(CCCC1)=O | C16H22O3
